US07485634B2
Preparation of n-propyl 3(4-fluorobenzoyl)-2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using 2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester (compound in Paragraph A) and 4-fluorobenzoyl chloride; MS (ES): 407 (MH+). The racemic sample was submitted to chiral separation using a 10 mm×250 mm Chiralcel OD column and a 10% iPrOH/hexane isocratic mobile phase to give two isomers.

reactant | 2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester | C(CC)OC(=O)C1=CNC(CC2=C1NC=1C=CC=CC21)C | C17H20N2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | n-propyl 3(4-fluorobenzoyl)-2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=CC=CC4C3CC2C)C(=O)OCCC)C=C1 | C24H23FN2O3
